US07816391B2
2M aqueous sodium hydroxide solution (51.7 mL, 103.32 mmol) was added to methyl 4-[4-(2-adamantylcarbamoyl)-5-tert-butyl-pyrazol-1-yl]benzoate (Intermediate#56) (4.5 g, 10.33 mmol) in methanol (100 mL). The mixture was stirred at 70° C. for 1 hour and then cooled to ambient temperature, concentrated under reduced pressure and diluted with water (100 mL). The reaction mixture was adjusted to pH 3 with 2M HCl. The reaction mixture was extracted with EtOAc (500 mL) and washed sequentially with water (2×100 mL), and saturated brine (50 mL). The organic layer was dried over MgSO4, filtered and evaporated to give a pale yellow solid. The solid was washed with EtOAc (20 mL), collected by filtration and dried under vacuum to give 4-[4-(2-adamantylcarbamoyl)-5-tert-butyl-pyrazol-1-yl]benzoic acid (3.89 g, 89%) as a cream crystalline solid.

reactant | sodium hydroxide | 103.32 mmol, 2M, 51.7 mL | [OH-].[Na+]
reactant | methyl 4-[4-(2-adamantylcarbamoyl)-5-tert-butyl-pyrazol-1-yl]benzoate | 10.33 mmol, 4.5 g | C12C(C3CC(CC(C1)C3)C2)NC(=O)C=2C=NN(C2C(C)(C)C)C2=CC=C(C(=O)OC)C=C2 | C26H33N3O3
solvent | methanol | 100 mL | CO | CH4O
product | 4-[4-(2-adamantylcarbamoyl)-5-tert-butyl-pyrazol-1-yl]benzoic acid | 3.89 g, 89% | C12C(C3CC(CC(C1)C3)C2)NC(=O)C=2C=NN(C2C(C)(C)C)C2=CC=C(C(=O)O)C=C2 | C25H31N3O3
